US07067537B2
Production of 3-{2-[4-(trifluoromethyl)pyridin-3-yl]-1,3-thiazol-4-yl}benzonitrile
By the reaction in the same manner as in Example 25-iii) using 3-(bromoacetyl)benzonitrile (913 mg) and 4-trifluoromethylpyridine-3-thiocarboxamide (840 mg), the title compound (1.03 g) was obtained as colorless powder crystals.

reactant | 3-(bromoacetyl)benzonitrile | 913 mg | BrCC(=O)C=1C=C(C#N)C=CC1 | C9H6BrNO
reactant | 4-trifluoromethylpyridine-3-thiocarboxamide | 840 mg | FC(C1=C(C=NC=C1)C(N)=S)(F)F | C7H5F3N2S
product | 3-{2-[4-(trifluoromethyl)pyridin-3-yl]-1,3-thiazol-4-yl}benzonitrile | 1.03 g | FC(C1=C(C=NC=C1)C=1SC=C(N1)C=1C=C(C#N)C=CC1)(F)F | C16H8F3N3S
